US04496560
A solution of 3,4-dichlorophenylthioacetyl chloride (prepared by the action of oxalyl chloride (8.4 cc) on the corresponding acid (3.99 g) in ethyl ether (48 cc), and replacement of the solvent) in ethyl acetate (20 cc) is added, in 10 minutes, to a solution of 7-amino-2-benzhydryloxycarbonyl-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (6.43 g) in N,N-dimethylacetamide (25 cc) at 0° C. After 1 hour at 0° C. followed by 40 minutes at a temperature of between 0 ° and 20° C., the reaction mixture is poured into ethyl acetate (250 cc) and this mixture is washed with distilled water (3×100 cc) and then with a saturated sodium chloride solution (100 cc). The organic phase is dried and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is filtered on a column of silica (0.02-0.5 mm) (40 g), elution being carried out with a mixture (2 liters) of methylene chloride and methanol (95:5 by volume). The residue obtained after concentrating to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. is crystallised from methylene chloride (20 cc) to give 2-benzhydryloxycarbonyl-7-(3,4-dichlorophenylthio)-acetamido-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.9 g) in the form of a pale yellow crystalline solid.

reactant | 3,4-dichlorophenylthioacetyl chloride | ClC=1C=C(C=CC1Cl)CC(=S)Cl | C8H5Cl3S
reactant | oxalyl chloride | 8.4 cc | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-amino-2-benzhydryloxycarbonyl-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 6.43 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)NC(C1=CN=CC=C1)=O | C29H23N5O4S2
reactant | ethyl acetate | 20 cc | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 250 cc | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | 48 cc | C(C)OCC | C4H10O
solvent | N,N-dimethylacetamide | 25 cc | CN(C(C)=O)C | C4H9NO
product | 2-benzhydryloxycarbonyl-7-(3,4-dichlorophenylthio)-acetamido-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CC(=O)NC=1N2C(C(C2SCC1C1=CN=C(S1)NC(C1=CN=CC=C1)=O)SC1=CC(=C(C=C1)Cl)Cl)=O | C37H27Cl2N5O5S3
